US08685274B2
Ethanol (30 ml) was added to 4-(3-propylcyclopentyl)cyclohexanecarboaldehyde (2.3 g) obtained in the second step in Example 3, in a reaction vessel under an atmosphere of nitrogen, and the mixture was cooled to 0° C., and sodium borohydride (0.22 g) was added slowly. After the mixture had been returned to room temperature and stirred for another 20 hours and water (30 ml) was added. The mixture was separated, and the water layer was extracted with diethyl ether three times, and then the combined organic layer was washed with brine. The solution was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (eluent: ethyl acetate/n-heptane=½ by volume) to give (4-(3-propylcyclopentyl)cyclohexyl)methanol (2.1 g).

reactant | Ethanol | 30 ml | C(C)O | C2H6O
reactant | 4-(3-propylcyclopentyl)cyclohexanecarboaldehyde | 2.3 g | C(CC)C1CC(CC1)C1CCC(CC1)C=O | C15H26O
reactant | sodium borohydride | 0.22 g | [BH4-].[Na+]
solvent | water | 30 ml | O | H2O
product | (4-(3-propylcyclopentyl)cyclohexyl)methanol | 2.1 g | C(CC)C1CC(CC1)C1CCC(CC1)CO | C15H28O
